US07250410B2
7,8-dimethoxy-1-methyl-5-(piperidin-1-yl)-1,3-dihydro-1,4-benzodiazepin-2-one, IIar.
Heat at 110° C. in a sealed tube a mixture of 100 mg (0.37 mmol) of 5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one XVIIIaa and 300 μl (3 mmol) of piperidine in 10 ml of EtOH for 48 hours. Evaporate to dryness and purify by silica chromatography (CH2Cl2 50/AcOEt 40/EtOH 10). Triturate in hexane, filter, dry. One obtains 70 mg of a beige powder. Yield: 60%. M=125–127° C. 1H-NMR (200 MHz, DMSO): δ 1.63–1.70 (m, 6H, 3×CH2), 3.20–3.23 (m, 4H, 2×CH2), 3.37 (s, 3H, NCH3), 3.91 (AB system, Δδ=0.71, JAB=11.5, 2H, 3-CH2), 3.94 (s, 3H, OCH3), 3.97 (s, 3H, OCH3), 6.73 (s, 1H Ar), 6.99 (s, 1H Ar).

reactant | 5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one | 0.37 mmol, 100 mg | ClC1=NCC(N(C2=C1C=C(C(=C2)OC)OC)C)=O | C12H13ClN2O3
reactant | piperidine | 3 mmol, 300 μl | N1CCCCC1 | C5H11N
solvent | EtOH | 10 ml | CCO | C2H6O
product | 7,8-dimethoxy-1-methyl-5-(piperidin-1-yl)-1,3-dihydro-1,4-benzodiazepin-2-one | 70 mg, Yield: 60% | COC=1C(=CC2=C(C(=NCC(N2C)=O)N2CCCCC2)C1)OC | C17H23N3O3
